US05266556
To a solution of 1-(2,6-dichloro-4-trifluoromethylphenyl)-6-hydroxy-5-nitroindazole [Compound No. 31] (3 g) in N,N-dimethylformamide, 60% sodium hydride (0.5 g) was added, and the resultant mixture was stirred while cooling with ice. After 10 minutes, propargyl bromide (1.2 g) was added thereto, and the resultant mixture was stirred at room temperature for 30 minutes. After completion of the reaction, the reaction mixture was poured into water and extracted with diethyl ether. The extract was dried over magnesium sulfate and concentrated under reduced pressure. The residue was purified by silica gel column chromatography with hexane-ethyl acetate (4:1) to give 1-(2,6-dichloro-4-trifluoromethylphenyl)-5-nitro-6-propargyloxyindazole (2.8 g).

reactant | 1-(2,6-dichloro-4-trifluoromethylphenyl)-6-hydroxy-5-nitroindazole | 3 g | ClC1=C(C(=CC(=C1)C(F)(F)F)Cl)N1N=CC2=CC(=C(C=C12)O)[N+](=O)[O-] | C14H6Cl2F3N3O3
reactant | sodium hydride | 0.5 g | [H-].[Na+]
reactant | propargyl bromide | 1.2 g | C(C#C)Br | C3H3Br
reactant | water | O | H2O
solvent | N,N-dimethylformamide | CN(C=O)C | C3H7NO
product | 1-(2,6-dichloro-4-trifluoromethylphenyl)-5-nitro-6-propargyloxyindazole | 2.8 g | ClC1=C(C(=CC(=C1)C(F)(F)F)Cl)N1N=CC2=CC(=C(C=C12)OCC#C)[N+](=O)[O-] | C17H8Cl2F3N3O3
